US08377570B2
A solution of catechol (27.53 g, 0.25 mol) in 100 ml of ethanol was slowly added to a stirred solution of KOH (35.07 g, 0.63 mol) in 350 ml of ethanol at room temperature. The reaction mixture was stirred for 1 h. A solution of 3-methylbutyl bromide (113.25 g, 0.75 mol) in 50 ml of ethanol was added dropwise. The reaction mixture was refluxed overnight. Ethanol was removed by rotary evaporation and the reaction mixture was partitioned between ethyl acetate and sodium carbonate solution. After drying over sodium sulfate, the product was obtained by reduced pressure distillation to get 38.2 g 1,2-bis(3′-methylbutoxy)benzene (61%). NMR (ppm) (400 MHz, CDCl3): δ 6.914 (s, 4H), 4.059-4.025 (t, 4H), 1.895-1.861 (m, 2H), 1.757-1.707 (m, 4H), 0.993-0.976 (m, 12H).

reactant | catechol | 0.25 mol, 27.53 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | KOH | 0.63 mol, 35.07 g | [OH-].[K+]
reactant | 3-methylbutyl bromide | 0.75 mol, 113.25 g | CC(CCBr)C | C5H11Br
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,2-bis(3′-methylbutoxy)benzene | 38.2 g, 61% | CC(CCOC1=C(C=CC=C1)OCCC(C)C)C | C16H26O2
